US04840949
A mixture of 2.52 g of 3-(3-methyl-xanthine-7-yl)propionic acid amide oxime, 4.0 ml of ethyl acetate and a solution of 0.46 g of metallic sodium in 25 ml of ethanol is heated to boiling under stirring for 5 hours. The hot reaction mixture is filtered and the filtrate is evaporated. The residue is treated with 20 ml of water, the pH is adjusted to 7 and the precipitated product is crystallized from water. Thus 1.7 g of 3.7-dihydro-3-methyl-7-(2-[5-methyl-1,2,4-oxadiazole-3-yl]-ethane-1-yl)-1H-purine-2,6-dione are obtained, m.p.: 258°-260° C.

reactant | 3-(3-methyl-xanthine-7-yl)propionic acid amide oxime | 2.52 g | CN1C(NC(C=2N(C=NC12)CCC(N)=NO)=O)=O | C9H12N6O3
reactant | ethyl acetate | 4.0 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium | 0.46 g | [Na] | Na
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3.7-dihydro-3-methyl-7-(2-[5-methyl-1,2,4-oxadiazole-3-yl]-ethane-1-yl)-1H-purine-2,6-dione | 1.7 g | CN1C(NC(C=2N(C=NC12)CCC1=NOC(=N1)C)=O)=O | C11H12N6O3
